US04324730
4,4-Difluoro-5-hydroxy-n-pentanoic Acid Methyl Ester
To a solution of 2 g of 2,2-difluoroglutaric acid 1-methyl ester in 20 ml of methanol is added at 25° 250 mg of sodium borohydride and the mixture allowed to remain at 25° for 2 hrs. The solution is diluted with water and acidified to pH 1 with 1 N HCl and the methanol removed in vacuo. The residual suspension is extracted with methylene chloride and the extract dried with sodium sulfate and evaporated to dryness in vacuo. The residual oil is treated with ethereal diazomethane until the yellow color persists and the ether is removed in vacuo. There remains behind the title compound.

reactant | 2,2-difluoroglutaric acid 1-methyl ester | 2 g | COC(C(CCC(=O)O)(F)F)=O | C6H8F2O4
reactant | sodium borohydride | 250 mg | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 4,4-Difluoro-5-hydroxy-n-pentanoic Acid Methyl Ester | COC(CCC(CO)(F)F)=O | C6H10F2O3
